US05859014
A mixture of 3-{3-[4-(2-methoxyphenyl)piperazin-1-yl]propyl}-5-methyl-2,4(1H,3H)-pyrimidinedione (550 mg, 1.53 mmol), prepared as in Example 32, dimethyl sulfate (193 mg, 1.53 mmol) and 0.1N tetrabutylammonium fluoride (100 mL, 10 mmol in THF) was stirred 4 hours at 25° C. The reaction mixture then was concentrated in vacuo and the residue was purified by column chromatography on silica gel eluting with ethyl acetate to give 3-{3-[4-(2-methoxyphenyl)piperazin-1-yl]propyl}-1,5-dimethyl-2,4(1H,3H)-pyrimidinedione, as an oil. The free base was recrystallized from a solution of hydrochloric acid in alcohol to give 3-{3-[4-(2-methoxyphenyl)piperazin-1-yl]propyl}-1,5-dimethyl-2,4(1H,3H)-pyrimidinedione hydrochloride, m.p. 256°-258° C. Anal.: Calcd. for C20H28N4O3.(HCl)2 : C, 53.93; H, 6.79; N, 12.58%; Found: C, 54.05; H, 6.87; N, 12.58%.

reactant | 3-{3-[4-(2-methoxyphenyl)piperazin-1-yl]propyl}-5-methyl-2,4(1H,3H)-pyrimidinedione | 1.53 mmol, 550 mg | COC1=C(C=CC=C1)N1CCN(CC1)CCCN1C(NC=C(C1=O)C)=O | C19H26N4O3
reactant | dimethyl sulfate | 1.53 mmol, 193 mg | S(=O)(=O)(OC)OC | C2H6O4S
reactant | tetrabutylammonium fluoride | 10 mmol, 0.1N, 100 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 3-{3-[4-(2-methoxyphenyl)piperazin-1-yl]propyl}-1,5-dimethyl-2,4(1H,3H)-pyrimidinedione | COC1=C(C=CC=C1)N1CCN(CC1)CCCN1C(N(C=C(C1=O)C)C)=O | C20H28N4O3
